### PR TITLE
[Merged by Bors] - feat: Compare card of subgroup to card of group

### PR DESCRIPTION
**Pull request by BoltonBailey**
Includes new lemmas, one that shows that the cardinality of a subgroup is at most the cardinality of the ambient group, and others which shows that the cardinality of the top group is equal to that of the ambient group, and that in fact this is iff.

Co-authored-by: Floris van Doorn

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by BoltonBailey** [comment]
Maintainers, let me know if we are not accepting PRs to ported files yet

**Comment by j-loreaux** [comment]
new results are fine to add (*maybe* not new instances, depending on the situation), but refactors will probably be forced to wait until after the port. Also, just FYI, we no longer specify the filename in the PR description.

**Comment by BoltonBailey** [comment]
Ok cool no refactors here, just new lemmas

File: Mathlib/GroupTheory/Subgroup/Finite.lean [hunk 1]
```diff
@@ -138,6 +143,13 @@ theorem eq_top_of_card_eq [Fintype H] [Fintype G] (h : Fintype.card H = Fintype.
 #align subgroup.eq_top_of_card_eq Subgroup.eq_top_of_card_eq
 #align add_subgroup.eq_top_of_card_eq AddSubgroup.eq_top_of_card_eq
 
+@[to_additive]
+theorem card_eq_iff_eq_top [Fintype H] [Fintype G] : Fintype.card H = Fintype.card G ↔ H = ⊤ := by
+  apply Iff.intro (eq_top_of_card_eq H)
+  intro h
+  simp_rw [h]
+  exact card_top
```
Comment (ocfnash) [inline Mathlib/GroupTheory/Subgroup/Finite.lean:151]:
```suggestion
@[to_additive (attr := simp)]
theorem card_eq_iff_eq_top [Fintype H] [Fintype G] : Fintype.card H = Fintype.card G ↔ H = ⊤ :=
  Iff.intro (eq_top_of_card_eq H) (fun h ↦ by simpa only [h] using card_top)
```

**Review by ocfnash — APPROVED** [review]
Thanks: please apply the suggestion and then feel free to merge.

bors d+

**Comment by BoltonBailey** [comment]
bors merge
